US04994477
Benzothiazole-2-carboxylic Acid
A precooled (-78° C.) solution of 7.7 ml (19.2 mmol) of n-butyllithium in 50 ml of dry tetrahydrofuran was treated dropwise with 2.0 ml (18.3 mmol) of benzothiazole. After the addition was complete, the solution was poured into a mixture of excess dry ice in 100 ml of tetrahydrofuran. After being allowed to warm, the resulting solution was treated with water, washed with ether, acidified with HCl, and filtered to give a yellow solid. Digestion with boiling ether followed by filtration gave 1.55 g (47%) of the desired compound as a nearly white solid.

reactant | n-butyllithium | 19.2 mmol, 7.7 ml | C(CCC)[Li]
reactant | benzothiazole | 18.3 mmol, 2.0 ml | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | dry ice | C(=O)=O | CO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Benzothiazole-2-carboxylic Acid | 1.55 g, 47% | S1C(=NC2=C1C=CC=C2)C(=O)O | C8H5NO2S
